US04755511
5-Bromo-2-methyl-1-indanone (2.0 g) and cuprous cyanide (4.0 g) in quinoline (50 ml ) were stirred at 200° for 2 hours. The mixture was cooled, treated with chloroform (100 ml ) and filtered to remove copper salts. The filtrate was then washed with 6N hydrochloric acid (3×100 ml ) and evaporated to give the crude product as a brown gum. Crystallisation from ethanol-water gave 5-cyano-2-methyl-1-indanone (1.46 g, m.p. 90°-1°).

reactant | 5-Bromo-2-methyl-1-indanone | 2.0 g | BrC=1C=C2CC(C(C2=CC1)=O)C | C10H9BrO
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 5-cyano-2-methyl-1-indanone | 1.46 g | C(#N)C=1C=C2CC(C(C2=CC1)=O)C | C11H9NO
